US08058300B2
Step 2: 1-(2-Chloro-cyclohex-1-enyl)-ethanol:
To a solution of 2-chloro-cyclohex-1-enecarbaldehyde (13.6 mmol) in THF at 0° C. was added methyl magnesium bromide (3M in THF; 5.4 mL, 16.32 mmol). The reaction was stirred under N2 for 1 hour, and then iPrOH (2 mL) was added. The mixture was concentrated, and the residue was diluted with 1N aqueous HCl and extracted with EtOAc. The combined organic layers were washed with saturated aqueous NH4Cl, dried over MgSO4, filtered, and concentrated, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | 2-chloro-cyclohex-1-enecarbaldehyde | 13.6 mmol | ClC1=C(CCCC1)C=O | C7H9ClO
reactant | methyl magnesium bromide | 16.32 mmol, 3M, 5.4 mL | C[Mg]Br
reactant | iPrOH | 2 mL | CC(C)O | C3H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-Chloro-cyclohex-1-enyl)-ethanol | ClC1=C(CCCC1)C(C)O | C8H13ClO
